US07504412B2
3-Fluoro-4′-(trifluoromethyl)[1,1′-biphenyl]-4-carboxylic acid
Production Example 14 was repeated except that 4-(trifluoromethyl)phenylboronic acid and 4-bromo-2-fluorobenzenecarboxylic acid were used, to provide the title compound as white solid.

reactant | 4-(trifluoromethyl)phenylboronic acid | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | 4-bromo-2-fluorobenzenecarboxylic acid | BrC1=CC(=C(C=C1)C(=O)O)F | C7H4BrFO2
product | 3-Fluoro-4′-(trifluoromethyl)[1,1′-biphenyl]-4-carboxylic acid | FC=1C=C(C=CC1C(=O)O)C1=CC=C(C=C1)C(F)(F)F | C14H8F4O2
